US04012367
to a solution of N-t-butoxycarbonyl-L-tryptophanyl-L-methionyl-L-aspartyl-D-alanine amide hydrate in 11.6 parts by volume glacial acetic acid and 0.12 part by volume 2-mercaptoethanol is added 5.8 parts by volume of a 6.04 M solution of hydrochloric acid in dioxane. After stirring for approximately five minutes, the solvent is removed under reduced pressure. The residue is triturated with ethyl ether, filtered and vacuum-dried to afford L-tryptophanyl-L-methionyl-L-aspartyl-D-alanine amide hydrochloride. This compound is represented by the following formula.

reactant | N-t-butoxycarbonyl-L-tryptophanyl-L-methionyl-L-aspartyl-D-alanine amide hydrate | O.C(C)(C)(C)OC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CCSC)C(=O)N[C@@H](CC(O)=O)C(=O)N[C@H](C)C(=O)N
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | 2-mercaptoethanol | SCCO | C2H6OS
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | L-tryptophanyl-L-methionyl-L-aspartyl-D-alanine amide hydrochloride | Cl.N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CCSC)C(=O)N[C@@H](CC(O)=O)C(=O)N[C@H](C)C(=O)N | InChI=1S/C23H32N6O6S.ClH/c1-12(20(25)32)27-23(35)18(10-19(30)31)29-22(34)17(7-8-36-2)28-21(33)15(24)9-13-11-26-16-6-4-3-5-14(13)16;/h3-6,11-12,15,17-18,26H,7-10,24H2,1-2H3,(H2,25,32)(H,27,35)(H,28,33)(H,29,34)(H,30,31);1H/t12-,15+,17+,18+;/m1./s1
